US07122550B2
2-Methoxy-4-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)phenol
In a procedure analogous to Example 2, reaction of 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine (717.3 mg, 3.07 mmol) and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (845 mg, 3.38 mmol) furnished the product (689 mg, 70%).

reactant | 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 3.07 mmol, 717.3 mg | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1 | C12H12ClN3
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 3.38 mmol, 845 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 2-Methoxy-4-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)phenol | 689 mg, 70% | COC1=C(C=CC(=C1)C1=NC(=CN=C1)N[C@@H](C)C1=CC=CC=C1)O | C19H19N3O2
